US09120819B2
3,3′-{(2-hydroxypropane-1,3-diyl)-bis[imino(2-oxoethane-2,1-diyl)oxy]}dibenzoic acid
By following the processes described in stages A to C of Example R13, Example R15 is prepared by dimerization of [3-(ethoxycarbonyl)phenoxy]acetic acid with 1,3-diaminopropan-2-ol. A white powder is obtained.

reactant | [3-(ethoxycarbonyl)phenoxy]acetic acid | C(C)OC(=O)C=1C=C(OCC(=O)O)C=CC1 | C11H12O5
reactant | 1,3-diaminopropan-2-ol | NCC(CN)O | C3H10N2O
product | 3,3′-{(2-hydroxypropane-1,3-diyl)-bis[imino(2-oxoethane-2,1-diyl)oxy]}dibenzoic acid | OC(CNC(COC=1C=C(C(=O)O)C=CC1)=O)CNC(COC=1C=C(C(=O)O)C=CC1)=O | C21H22N2O9
